US09193716B2
Step A: 3-Nitro-4-propoxybenzoic acid
To a stirred solution of 3-nitro-4-propoxymethylbenzoate (0.35 g, 1.46 mmol) in a mixture of THF and EtOH (3 ml:1 ml) the solution of LiOH (0.345 g; 15 mmol) in H2O (1 ml) was added and the mixture was stirred for 4 h at room temperature. The solvent was distilled off and the residue was treated with 1 M HCl and extracted with EtOAc (50 ml). The organic layer was washed with H2O, dried over MgSO4 and filtered. The filtrate was evaporated to dryness to give the title compound (0.32 g, 97%), as creamy solid. 1H NMR (CDCl3) 8.53 (d, 1H, J=1.65 Hz); 8.21 (dd, 1H, J=8.79, 1.62 Hz); 7.12 (d, 1H, J=8.82 Hz); 4.14 (t, 2H, J=6.39 Hz); 1.94-1.82 (m, 2H); 1.07 (t, 3H, J=7.35 Hz).

reactant | 3-nitro-4-propoxymethylbenzoate | 1.46 mmol, 0.35 g | [N+](=O)([O-])C=1C=C(C(=O)[O-])C=CC1COCCC
reactant | LiOH | 15 mmol, 0.345 g | [Li+].[OH-]
reactant | THF | C1CCOC1 | C4H8O
solvent | EtOH | 3 ml | CCO | C2H6O
solvent | H2O | 1 ml | O | H2O
product | 3-Nitro-4-propoxybenzoic acid | 0.32 g, 97% | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1OCCC | C10H11NO5
